US09377466B2
Methyl 3,5-bis[[bis(2-pyridylmethyl)amino]methyl]benzoate (3)
Methyl 3,5-bis(bromomethyl)-benzoate (500 mg, 1.6 mmol) and di-(2-picolyl)-amine (800 mg, 725 μL, 4 mmol) were dissolved in ACN followed by the addition of dry K2CO3 (1.1 g, 7.9 mmol). The reaction mixture was refluxed overnight under reflux condenser equipped with a CaCl2 tube. The reaction mixture was filtered and filtrate was evaporated under reduced pressure. Yellow residue was purified by flash chromatography (Al2O3 neutral, firstly AcOEt was used to elute impurities and then MeOH/AcOEt=1:9 (v/v)) affording a pure product as a yellow oil. Yield: 850 mg (95%). 1H NMR (500 MHz, CDCl33) δ 8.51 (m, 4H), 7.94 (d, J=1.5 Hz, 2H), 7.70 (s, 1H), 7.61 (m, 8H), 7.12 (m, 4H), 3.92 (s, 3H), 3.81 (s, 8H), 3.73 (s, 4H). 13C NMR (101 MHz, CDCl3) δ 197.9, 167.1, 159.5, 148.9, 139.7, 136.2, 133.8, 130.2, 128.7, 122.8, 121.9, 60.1, 58.2, 52.0. MS (ESI, m/z): calculated: 558.7 observed: 559.5 [M+H]+.

reactant | Methyl 3,5-bis(bromomethyl)-benzoate | 1.6 mmol, 500 mg | BrCC=1C=C(C(=O)OC)C=C(C1)CBr | C10H10Br2O2
reactant | di-(2-picolyl)-amine | 4 mmol, 725 μL, 800 mg | N1=C(C=CC=C1)CNCC1=NC=CC=C1 | C12H13N3
reactant | K2CO3 | 7.9 mmol, 1.1 g | C(=O)([O-])[O-].[K+].[K+]
solvent | ACN | C(C)#N | C2H3N
product | Methyl 3,5-bis[[bis(2-pyridylmethyl)amino]methyl]benzoate | N1=C(C=CC=C1)CN(CC1=NC=CC=C1)CC=1C=C(C(=O)OC)C=C(C1)CN(CC1=NC=CC=C1)CC1=NC=CC=C1 | C34H34N6O2
